data/mechanism_extracts/JOC/10.1021_acs.joc.4c00297.json
{"doi": "10.1021_acs.joc.4c00297", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical oxidative sulfonylation-azidation of alkenes using arylsulfonyl hydrazides and TMSN3 to give β-azidoarylsulfones via radical-polar crossover", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of arylsulfonyl hydrazide to sulfonyl radical (with -3H+, -3e-, -N2); subsequent anodic oxidation of benzyl radical intermediate to benzyl cation; cathodic reduction of protons to H2", "key_intermediates": [{"name": "arylsulfonyl radical (A)", "smiles": "[O]=S(=O)([c]1ccc(C)cc1)[*]", "role": "reactive"}, {"name": "β-sulfonyl benzyl carbon radical (B)", "smiles": null, "role": "reactive"}, {"name": "β-sulfonyl benzyl carbocation (C)", "smiles": null, "role": "reactive"}, {"name": "azide anion from TMSN3", "smiles": "[N-]=[N+]=[N-]", "role": "reactive"}], "electron_flow": "Anode oxidizes the arylsulfonyl hydrazide (losing 3e-, 3H+, N2) to generate a sulfonyl radical A, which adds to the styrene to give benzyl radical B; B is further oxidized at the anode to benzyl cation C, which is trapped by azide from TMSN3, while protons are reduced to H2 at the cathode.", "rate_determining_step": "Anodic oxidation of the sulfonyl hydrazide 1a (CV shows 1a oxidizes at lower potential than 2a; TMSN3 shows no oxidation peak)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed (4aa, 0%); TEMPO-sulfonyl adduct 5 detected by HRMS ([M+H]+ 430.2392)"}, {"name": "(1-cyclopropylvinyl)benzene", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 4ay isolated in 6% along with normal product 4ax (62%), confirming radical intermediate"}, {"name": "alkene-tethered diol substrate 6", "smiles": null, "purpose": "intermediate_trap", "observation": "Without TMSN3, intramolecular OH nucleophile traps the cation to give ring-formed tetrahydrofuran 7 in 51%, supporting carbocation intermediate"}, {"name": "cyclic voltammetry of 1a, 2a, 3", "smiles": null, "purpose": "redox_probe", "observation": "1a oxidation peak much lower than 2a; TMSN3 shows almost no oxidation peak, indicating 1a is oxidized first at anode"}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "strong", "notes": "Carbocation intermediate C is supported by trapping with internal hydroxyl nucleophile (Scheme 2d). Strongly electron-donating (p-OMe) and electron-withdrawing (p-NO2) styrenes failed, and p-CF3 styrene gave only trace product, consistent with the need for a moderately stabilizable benzylic radical/cation. α-substituted styrenes give higher yields due to more stable tertiary benzyl cation/radical."}
